US04555370
1,270 g (5 moles) of 4-chloro-3-bromo-benzoyl chloride, 1,150 g of tetramethylenesulphone and 315 g (7.5 moles) of anhydrous sodium fluoride were warmed for 5 hours to 210° C., while stirring. Thereafter, 435 g (7.5 moles) of anhydrous potassium fluoride, suspended in 1,150 g of tetramethylenesulphone, were added to the reaction mixture, and the latter was stirred for a further 7 hours at 210° C. The subsequent distillation gave 873 g (79% of theory) of 4-fluoro-3-bromobenzoyl fluoride (a starting material for Example 19).

reactant | 4-chloro-3-bromo-benzoyl chloride | 5 moles, 1,270 g | ClC1=C(C=C(C(=O)Cl)C=C1)Br | C7H3BrCl2O
reactant | sodium fluoride | 7.5 moles, 315 g | [F-].[Na+]
reactant | potassium fluoride | 7.5 moles, 435 g | [F-].[K+]
solvent | tetramethylenesulphone | 1,150 g | C1CCCS1(=O)=O | C4H8O2S
solvent | tetramethylenesulphone | 1,150 g | C1CCCS1(=O)=O | C4H8O2S
product | 4-fluoro-3-bromobenzoyl fluoride | 873 g, 79% | FC1=C(C=C(C(=O)F)C=C1)Br | C7H3BrF2O
